US07714085B2
The obtained copolymer A was dissolved in an ethanol/toluene solvent (volume ratio 7:3) and was then reacted using sulfuric acid at 65° C. for 90 minutes. After washing this reaction solution with an alkaline solution, the resulting solution was subjected to a reprecipitation process using a methanol/water (volume ratio 1:1) solvent to obtain a reprecipitate, then the reprecipitate was filtered to obtain the retained matter, and the retained matter was air-dried to obtain styrene-p-hydroxystyrene (PHS) copolymer B (yield 87%). The Mw of copolymer B was 216,300 and the ratio Mw/Mn was 1.15.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ethanol toluene | C(C)O.C1(=CC=CC=C1)C
product | styrene p-hydroxystyrene | C=CC1=CC=CC=C1.OC1=CC=C(C=C)C=C1 | InChI=1S/C8H8O.C8H8/c1-2-7-3-5-8(9)6-4-7;1-2-8-6-4-3-5-7-8/h2-6,9H,1H2;2-7H,1H2
